US05208250
5-[[4-hydroxy-3,5-bis(1-methylethyl)phenyl]methylene]-2-thioxo-4-imidazolidinone
Prepared according to the procedure described in Example 1 using 4-hydroxy-3,5-bis(1-methylethyl)benzaldehyde (3.0 g, 15 mmoles), 2-thiohydantoin (1.6 g, 14 mmoles), sodium acetate (4.2 g, 51 mmoles), and acetic acid (35 ml), filtered off, dried, and recrystallized from acetonitrile to afford the pure product (1.4 g), mp 225°-230° C.

reactant | 4-hydroxy-3,5-bis(1-methylethyl)benzaldehyde | 15 mmoles, 3.0 g | OC1=C(C=C(C=O)C=C1C(C)C)C(C)C | C13H18O2
reactant | 2-thiohydantoin | 14 mmoles, 1.6 g | N1C(=S)NC(=O)C1 | C3H4N2OS
reactant | sodium acetate | 51 mmoles, 4.2 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 5-[[4-hydroxy-3,5-bis(1-methylethyl)phenyl]methylene]-2-thioxo-4-imidazolidinone | 1.4 g | OC1=C(C=C(C=C1C(C)C)C=C1C(NC(N1)=S)=O)C(C)C | C16H20N2O2S
